US03983111
21-Bromo-3α-hydroxy-5α-pregnane-11,20-dione (1 g.) was dissolved in dry tetrahydrofuran (50 ml.) and cis/trans-2,6-dimethylmorpholine (1 ml.) added to the solution. The mixture was refluxed for 4 hours. The mixture was poured into water, the emulsion extracted into ether, and the combined extracts washed with water, dried over anhydrous sodium sulphate and evaporated to a pale yellow foam (1.07 g.) which was purified by preparative T.L.C. in ethyl acetate. The faster running band (Rf ~0.6) gave 3α-hydroxy-21-(trans-2',6'-dimethylmorpholino)-5α-pregnane-11,20-dione (150 mg., 14%) as a white foam. [α]D + 70.5° (c 0.42).

reactant | 21-Bromo-3α-hydroxy-5α-pregnane-11,20-dione | 1 g | BrCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C21H31BrO3
reactant | trans-2,6-dimethylmorpholine | 1 ml | C[C@@H]1CNC[C@H](O1)C | C6H13NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3α-hydroxy-21-(trans-2',6'-dimethylmorpholino)-5α-pregnane-11,20-dione | 150 mg, 14% | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CN5C[C@@H](O[C@H](C5)C)C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C27H43NO4
